US08420816B2
Step B: 5-chloro-4-formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
Lithium chloride (1.05 g, 24.7 mmol) and lithium formate monohydrate (1.73 g, 24.7 mmol) were combined in a dry sealable tube under nitrogen. DMF (20 mL), 5-chloro-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde (3.8 g, 8.25 mmol), acetic anhydride (1.56 mL, 16.5 mmol) and palladium acetate (185 mg, 0.83 mmol) were added. DIPEA (2.87 mL) was added, and the reaction tube was sealed and heated at 52° C. for 3 h. The reaction mixture was taken up in MeOH/DCM (20%) and filtered to remove the insoluble black carbon material. The yellow solution was concentrated in vacuo, dissolved in MeOH/DCM (10%), and washed with aqueous HCl (0.1N). The aqueous layer was extracted with MeOH/DCM (10%, 2×). The organics were combined, dried over MgSO4, and concentrated in vacuo. Purification by silica gel chromatography (10-15% MeOH/DCM) gave the title compound as a light tan solid (2.34 g, 75%). 1H NMR (500 MHz, CD3OD) δ 3.15 (s, 3H), 8.24(d, J=8.5 Hz, 2H), 8.81 (d, J=8.5 Hz, 2H), 9.17 (s, 1H), 9.38 (s, 1H), 11.81 (s, 1H). [M+H] calc'd for C16H11ClN2O5S, 379, 381; found, 379, 381.

reactant | Lithium chloride | 24.7 mmol, 1.05 g | [Cl-].[Li+]
reactant | lithium formate monohydrate | 24.7 mmol, 1.73 g | O.C(=O)[O-].[Li+]
reactant | 5-chloro-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 8.25 mmol, 3.8 g | ClC1=C(C2=C(N=C1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)C=O | C15H10ClIN2O3S
reactant | acetic anhydride | 16.5 mmol, 1.56 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | DIPEA | 2.87 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH DCM | CO.C(Cl)Cl
catalyst | palladium acetate | 0.83 mmol, 185 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-chloro-4-formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 2.34 g, 75% | ClC=1C(=C2C(=NC1)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2)C=O | C16H11ClN2O5S
